US08497281B2
(2-Amino-benzothiazol-6-yl)-(cis-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone
The title compound is prepared from 2-amino-benzothiazole-6-carboxylic acid and cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate is used]. Yield: 63% of theory; LC (method 4): tR=1.76 min; Mass spectrum (ESI+): m/z=350 [M+H]+.

reactant | 2-amino-benzothiazole-6-carboxylic acid | NC=1SC2=C(N1)C=CC(=C2)C(=O)O | C8H6N2O2S
reactant | cis-2,3,4,4a,9,9a-hexahydro-1H-indeno[2,1-b]pyridine | N1[C@@H]2[C@H](CCC1)C=1C=CC=CC1C2 | C12H15N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | (2-Amino-benzothiazol-6-yl)-(cis-2,3,4,4a,9,9a-hexahydro-indeno[2,1-b]pyridin-1-yl)-methanone | Yield: 63% | NC=1SC2=C(N1)C=CC(=C2)C(=O)N2[C@@H]1[C@H](CCC2)C=2C=CC=CC2C1 | C20H19N3OS
